US05037986
A mixture of 17.7 g (0.0722 mole) of N-(1,1-dimethylethyl)-3-nitro-4-quinolinamine, 350 mL of ethyl acetate, 20 g of magnesium sulfate and about one gram of platinum on charcoal was hydrogenated on a Paar apparatus. After hydrogen pressure stabilized, the mixture was filtered and the filtrate was evaporated to provide a solid residue of 3-amino-N-(1,1-dimethylethyl)-4-quinolinamine.

reactant | N-(1,1-dimethylethyl)-3-nitro-4-quinolinamine | 0.0722 mole, 17.7 g | CC(C)(C)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C13H15N3O2
reactant | magnesium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | hydrogen | [H][H] | H2
catalyst | platinum on charcoal | about one gram | [Pt] | Pt
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | 3-amino-N-(1,1-dimethylethyl)-4-quinolinamine | NC=1C=NC2=CC=CC=C2C1NC(C)(C)C | C13H17N3
